US03953430
Preparation of 9-(2-Dimethylamino-1-methylethyl)-4,9-dihydro-4-methyl-10H-thieno[3,4-b] [1,5]benzodiazepin-10-one, hydrochloride
A mixture of 0.47 g. of 55% sodium hydride-mineral oil dispersion and 0.83 g. of 2-dimethylamino-1-methylethylchloride hydrochloride in 30 ml. of dry dimethylformamide is stirred at room temperature for 0.5 hours. To the mixture is added 0.6 g. of 4,9-dihydro-4-methyl-10H-thieno[3,4-b] [1,5]benzodiazepin-10-one and stirring is continued for 18 hours. The reaction mixture is cooled, quenched with water and extracted with chloroform. The dried chloroform extracts are concentrated to an oil which is chromatographed on silica gel preparative thin layer chromatographic (tlc) plates using 10:1 benzene:methanol to give a yellow oil. The oil is dissolved in ethanol and treated with anhydrous hydrogen chloride followed by dilution with ether to give a solid, which is recrystallized from ethanol to give white crystals, m.p. 280°-282°C. (dec.).

reactant | sodium hydride | [H-].[Na+]
reactant | 2-dimethylamino-1-methylethylchloride hydrochloride | Cl.CN(CC(C)Cl)C
reactant | 4,9-dihydro-4-methyl-10H-thieno[3,4-b] [1,5]benzodiazepin-10-one | CN1C=2C(C(NC3=C1C=CC=C3)=O)=CSC2 | C12H10N2OS
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
solvent | ether | CCOCC | C4H10O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 9-(2-Dimethylamino-1-methylethyl)-4,9-dihydro-4-methyl-10H-thieno[3,4-b] [1,5]benzodiazepin-10-one, hydrochloride | Cl.CN(CC(C)N1C(C=2C(N(C3=C1C=CC=C3)C)=CSC2)=O)C | InChI=1S/C17H21N3OS.ClH/c1-12(9-18(2)3)20-15-8-6-5-7-14(15)19(4)16-11-22-10-13(16)17(20)21;/h5-8,10-12H,9H2,1-4H3;1H
